US07687664B2
Methyl 3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)-6-isopropoxybenzoate
230 mg of 3-{[(t-Butoxycarbonyl)amino]methyl}-4-methoxyphenylboronic acid, 197 mg of methyl 2-isopropoxy-5-chlorobenzoate, 30 mg of dichlorobistriphenylphosphinoferrocene nickel and 570 mg of potassium phosphate were dissolved in dioxane, and the mixture was stirred overnight at 95° C. in a nitrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was evaporated. The residue was purified by a silica gel column, to give 194 mg of the title compound in the 5:1 hexane-ethyl acetate fraction.

reactant | 3-{[(t-Butoxycarbonyl)amino]methyl}-4-methoxyphenylboronic acid | 230 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)B(O)O | C13H20BNO5
reactant | methyl 2-isopropoxy-5-chlorobenzoate | 197 mg | C(C)(C)OC1=C(C(=O)OC)C=C(C=C1)Cl | C11H13ClO3
reactant | potassium phosphate | 570 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | dichlorobistriphenylphosphinoferrocene nickel | 30 mg | [Ni].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[C-]1C=CC=C1.[Fe+2]
product | Methyl 3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)-6-isopropoxybenzoate | 194 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)C=1C=C(C(=O)OC)C(=CC1)OC(C)C | C24H31NO6
